US04304770
2-Ethoxyimino-2-(2-aminothiazol-4-yl)acetic acid (syn isomer) (100 g), formic acid (85.5 g) and acetic anhydride (190.1 g) were treated in a similar manner to that of Preparation 12 to give 2-ethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (99.1 g).

reactant | 2-Ethoxyimino-2-(2-aminothiazol-4-yl)acetic acid | 100 g | C(C)ON=C(C(=O)O)C=1N=C(SC1)N | C7H9N3O3S
reactant | acetic anhydride | 190.1 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 85.5 g | C(=O)O | CH2O2
product | 2-ethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 99.1 g | C(C)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C8H9N3O4S
